US08426408B2
(1S,2S,3R,4R)-3-{[5-chloro-2-({1-[(3S)-pyrrolidin-3-yl]-1H-pyrazol-4-yl}amino)pyrimidin-4-yl]amino}bicyclo[2.2.1]hept-5-ene-2-carboxamide
(+)-(1S,2S,3R,4R)-3-(2,5-Dichloropyrimidin-4-ylamino)bicyclo[2.2.1]hept-5-ene-2-carboxamide (75 mg, 0.25 mmol) and (S)-tert-butyl 3-(4-amino-1H-pyrazol-1-yl)pyrrolidine-1-carboxylate (63 mg, 0.25 mmol) were combined with 2-propanol (2.4 ml) in a sealed tube and the mixture was heated to 85° C. for 4 hours. The reaction mixture was concentrated to dryness, then treated with 5 mL TFA and stirred for 15 minutes. The mixture was again concentrated to dryness, the residue was dissolved in CH2Cl2, and the mixture was treated with aqueous saturated NaHCO3. The layers were separated and the aqueous layer was further extracted 3× with ethyl acetate. The extracts were dried (Na2SO4) and concentrated, then purified by flash chromatography yielding the desired product. 1H NMR (300 MHz, DMSO-D6) ppm 1.41 (d, J=7.8 Hz, 1H) 1.92-2.04 (m, 1H) 2.07-2.21 (m, 2H) 2.52-2.56 (m, 1H) 2.71-2.91 (m, 3H) 2.93 (d, J=5.4 Hz, 1H) 2.95-3.03 (m, 1H) 3.12 (dd, J=11.5, 7.12 Hz, 1H) 4.13 (t, J=7.5 Hz, 1H) 4.65-4.77 (m, 1H) 6.25-6.40 (m, 2H) 7.25 (s, 1H) 7.51 (s, 1H) 7.61-7.84 (m, 3H) 7.89 (s, 1H) 9.10 (s, 1H); MS (ESI(+)) m/e 415 (M+H)+.

reactant | (+)-(1S,2S,3R,4R)-3-(2,5-Dichloropyrimidin-4-ylamino)bicyclo[2.2.1]hept-5-ene-2-carboxamide | 0.25 mmol, 75 mg | ClC1=NC=C(C(=N1)N[C@H]1[C@H]([C@@H]2C=C[C@H]1C2)C(=O)N)Cl | C12H12Cl2N4O
reactant | (S)-tert-butyl 3-(4-amino-1H-pyrazol-1-yl)pyrrolidine-1-carboxylate | 0.25 mmol, 63 mg | NC=1C=NN(C1)[C@@H]1CN(CC1)C(=O)OC(C)(C)C | C12H20N4O2
solvent | 2-propanol | 2.4 ml | CC(C)O | C3H8O
product | (1S,2S,3R,4R)-3-{[5-chloro-2-({1-[(3S)-pyrrolidin-3-yl]-1H-pyrazol-4-yl}amino)pyrimidin-4-yl]amino}bicyclo[2.2.1]hept-5-ene-2-carboxamide | ClC=1C(=NC(=NC1)NC=1C=NN(C1)[C@@H]1CNCC1)N[C@H]1[C@H]([C@@H]2C=C[C@H]1C2)C(=O)N | C19H23ClN8O
